US07572809B2
Similar procedure as described in example 10 was used, starting from propan-2-ol and (1-chloro-7-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine to give (1-isopropoxy-7-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine. LC-MS m/e 313(MH+).

reactant | (1-chloro-7-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | ClC1=NC(=CC2=CC=C(C=C12)OC)NC1=NNC(=C1)C | C14H13ClN4O
solvent | propan-2-ol | CC(C)O | C3H8O
product | (1-isopropoxy-7-methoxy-isoquinolin-3-yl)-(5-methyl-1H-pyrazol-3-yl)-amine | C(C)(C)OC1=NC(=CC2=CC=C(C=C12)OC)NC1=NNC(=C1)C | C17H20N4O2
